US09353093B2
To the solution of 2-(3-aminophenyl)-1H-indole-1-carboxamide (50.2 mg, 0.2 mmol, 1 eq) in anhydrous THF (2 mL) was added 3-ethylphenyl isocyanate (29 μL, 1 eq) and the reaction solution was stirred at room temperature for one hour. It was then diluted with ethyl acetate, washed with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, brine, and lastly dried with anhydrous sodium sulfate. The upper solution was decanted, concentrated and the oily residue was subject to a gradient column chromatography (from EtOAc-Hex 1:2 to MeOH-EtOAc 1:10). The product fractions were collected, concentrated, and the solid residue was triturated with EtOAc-Hex (1:1) to give 2-[3-({[(3-ethylphenyl)amino]carbonyl}amino)phenyl]-1H-indole-1-carboxamide as white solid upon filtration in amount of 32 mg.

reactant | 2-(3-aminophenyl)-1H-indole-1-carboxamide | 0.2 mmol, 50.2 mg, 1 eq | NC=1C=C(C=CC1)C=1N(C2=CC=CC=C2C1)C(=O)N | C15H13N3O
reactant | 3-ethylphenyl isocyanate | 29 μL, 1 eq | C(C)C=1C=C(C=CC1)N=C=O | C9H9NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-({[(3-ethylphenyl)amino]carbonyl}amino)phenyl]-1H-indole-1-carboxamide | C(C)C=1C=C(C=CC1)NC(=O)NC=1C=C(C=CC1)C=1N(C2=CC=CC=C2C1)C(=O)N | C24H22N4O2
